US06489314B1
(a) (4R,5S,6S)-1,1 -diisopropoxy-5-hydroxy-2,2,4,6-tetramethyl-8-nonen-3-one
A solution of 1,1-diisopropoxy-2,2,-dimethyl-3-pentanone (3.29 g) in 15 mL of THF is added slowly to a solution of lithium diisopropylamide (15.7 mmol) in 20 mL of THF cooled to −78° C., the mixture is stirred for 30 minutes, warmed to −40° C. and stirred for 30 minutes, then recooled to −78° C. A solution of (2S)-2-methyl-4-pentenal (16.36 mmol) in 2 mL of CH2Cl2 is added and the mixture is stirred for 1 hour at −78° C. Saturated aq. NH4Cl is added and the mixture is warmed to ambient temperature and extracted with ethyl acetate. The extract is dried over Na2SO4, filtered, and evaporated. The residue is purified by silica gel chromatography (2% ethyl acetate/hexanes) to separate the two diastereomeric products.

reactant | 1,1-diisopropoxy-2,2,-dimethyl-3-pentanone | 3.29 g | C(C)(C)OC(C(C(CC)=O)(C)C)OC(C)C | C13H26O3
reactant | lithium diisopropylamide | 15.7 mmol | C(C)(C)[N-]C(C)C.[Li+]
reactant | (2S)-2-methyl-4-pentenal | 16.36 mmol | C[C@H](C=O)CC=C | C6H10O
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | (4R,5S,6S)-1,1 -diisopropoxy-5-hydroxy-2,2,4,6-tetramethyl-8-nonen-3-one | C(C)(C)OC(C(C([C@@H]([C@H]([C@H](CC=C)C)O)C)=O)(C)C)OC(C)C | C19H36O4
